US07799894B2
(2) Synthesis of 10-aminodibenzo(A,C)phenazine
10.1 g (82 mmol) of 1,2,3-triaminobenzene and 14.6 g (70 mmol) of 9,10-phenanthrenequinone were placed in a four-necked flask, to which 350 g of a solvent of acetic acid and methanol at 1:1 was added for dissolution, followed by reaction at a reaction temperature of 70° C. for 2 hours. After the reaction, the solvent was removed and the resulting product was washed with methanol to obtain the intended product.

reactant | 1,2,3-triaminobenzene | 82 mmol, 10.1 g | NC1=C(C(=CC=C1)N)N | C6H9N3
reactant | 9,10-phenanthrenequinone | 70 mmol, 14.6 g | C1=CC=CC=2C3=CC=CC=C3C(C(C12)=O)=O | C14H8O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
product | 10-aminodibenzo(A,C)phenazine | NC1=C2N=C3C4=C(C5=C(C3=NC2=CC=C1)C=CC=C5)C=CC=C4 | C20H13N3
